US08735627B2
To 14.1 g (0.04 mol) of 3-(hydroxymethyl)-3-nitro-1-(p-octylphenyl)butane-1,4-diol in 250 ml of methyl alcohol, 30 ml of concentrated hydrochloric acid was added, followed by the catalyst—10% palladium-carbon. The mixture was stirred at 20 kg/cm2 hydrogen pressure for two days at room temperature. The mixture was then filtered, methyl alcohol was distilled off, the residue was dissolved in water, adjusted to pH 8 with saturated sodium bicarbonate, and extracted with ethyl acetate (100 ml×3). The ethyl acetate extracts were dried over magnesium sulfate, filtered, evaporated. The residue was dissolved in ethanol (50 ml) and a 1N hydrochloric acid (50 ml) was added thereto. The mixture was stirred for 1 h, the solvent was distilled off and the resultant solid were recrystallized from ethanol to give Fingolimod hydrochloride.

reactant | 3-(hydroxymethyl)-3-nitro-1-(p-octylphenyl)butane-1,4-diol | 0.04 mol, 14.1 g | OCC(CC(O)C1=CC=C(C=C1)CCCCCCCC)(CO)[N+](=O)[O-] | C19H31NO5
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | methyl alcohol | 250 ml | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | Fingolimod hydrochloride | CCCCCCCCC=1C=CC(=CC1)CCC(CO)(CO)N.Cl | InChI=1S/C19H33NO2.ClH/c1-2-3-4-5-6-7-8-17-9-11-18(12-10-17)13-14-19(20,15-21)16-22;/h9-12,21-22H,2-8,13-16,20H2,1H3;1H
